US07358370B2
To a solution/suspension of 3,3-dimethyl-5-(p-tolylsulfonylhydrazono)-cyclohexanone (4.0 g, 12.97 mmol, 1.0 eq.) in 72 ml of tetrahydrofuran and 24 mL of triethylamine was added trifluoroacetic anhydride (1.8 mL, 12.97 mmol, 1.0 eq.). The dark red reaction mixture was heated at 55° C. After 15 min the reaction mixture was homogeneous. After 2 h the reaction mixture was cooled to ambient temperature. Methanol (16 mL) and a 1:1 solution of water-1 M aqueous sodium hydroxide (16 mL) were added. After stirring for 3 h, the reaction mixture was diluted with 50 mL of saturated aqueous ammonium chloride and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was filtered through a plug of silica gel, eluting with ethyl acetate. The filtrate was concentrated in vacuo, and the residue was treated with ether. The solids were collected by filtration and washed with ether. The filtrate was concentrated in vacuo, and the resulting residue was treated with ether. The solids were collected by filtration, washed with ether, and combined with the initial solids to provide 6,6-dimethyl-3-trifluoromethyl-1,5,6,7-tetrahydro-indazol-4-one (1.24 g, 41%) as a reddish orange solid: LC/MS (m/z): [M+H]+ 233.1.

reactant | 3,3-dimethyl-5-(p-tolylsulfonylhydrazono)-cyclohexanone | 12.97 mmol, 4.0 g, 1.0 eq. | CC1(CC(CC(C1)=NNS(=O)(=O)C1=CC=C(C=C1)C)=O)C | C15H20N2O3S
reactant | trifluoroacetic anhydride | 12.97 mmol, 1.8 mL, 1.0 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Methanol | 16 mL | CO | CH4O
reactant | water | 1 M, 16 mL | O | H2O
solvent | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 24 mL | C(C)N(CC)CC | C6H15N
solvent | ammonium chloride | 50 mL | [Cl-].[NH4+]
product | 6,6-dimethyl-3-trifluoromethyl-1,5,6,7-tetrahydro-indazol-4-one | 1.24 g, 41% | CC1(CC(C=2C(=NNC2C1)C(F)(F)F)=O)C | C10H11F3N2O
